US05637582
A mixture comprising 2.48 g of (-)-cis-2-(4-methylphenyl)-3-hydroxy-8-trityloxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.75 g of 2-(dimethylamino)ethyl chloride hydrochloride, 1.70 g of potassium carbonate and 50 ml of acetone was refluxed overnight while stirring. After the mixture was cooled, insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residual was recrystallized from a mixed solution of ethyl acetate and n-hexane to give 2.59 g of (-)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-trityloxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H) -one.

reactant | (-)-cis-2-(4-methylphenyl)-3-hydroxy-8-trityloxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.48 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H31NO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.75 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 1.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (-)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-trityloxymethyl-2,3-dihydro-1,5-benzothiazepin-4(5H) -one | 2.59 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C40H40N2O3S
